US05643872
A solution of 2-[2-(2-(phenylmethoxycarbonylamino)phenyl)ethyl]benzoic acid (5.2 g, 0.014 mol) in methylene chloride (100 mL) was treated with isobutylene (15 mL) and sulfuric acid (0.14 mL) and stirred at room temperature. Isobutylene was added over the period of several days until the reaction was complete. The reaction mixture was washed with 5% aqueous sodium carbonate and with water. The organic phase was dried with magnesium sulfate and concentrated in vacuo to give an oil which was purified by chromatography (silica gel, hexane:ethyl acetate 95:5) to give t-butyl 2-[2-(2-(phenylmethoxycarbonylamino)phenyl)-ethyl]-benzoate (1.8 g, 31%).

reactant | 2-[2-(2-(phenylmethoxycarbonylamino)phenyl)ethyl]benzoic acid | 0.014 mol, 5.2 g | C1(=CC=CC=C1)COC(=O)NC1=C(C=CC=C1)CCC1=C(C(=O)O)C=CC=C1 | C23H21NO4
reactant | isobutylene | 15 mL | CC(C)=C | C4H8
reactant | sulfuric acid | 0.14 mL | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | t-butyl 2-[2-(2-(phenylmethoxycarbonylamino)phenyl)-ethyl]-benzoate | 1.8 g, 31% | C1(=CC=CC=C1)COC(=O)NC1=C(C=CC=C1)CCC1=C(C(=O)OC(C)(C)C)C=CC=C1 | C27H29NO4
